US07872031B2
To a solution of excess (4-methoxyphenyl)methanamine (0.2 mL) in dioxane (2 mL) was added 5-bromo-2-chloro-3-(1-(2,3-dichlorophenyl)-1H-imidazol-2-yl)pyridine (0.089 g, 0.222 mmol). The mixture was heated at 100° C. for 16 hours in a sealed reaction vessel. The mixture was then cooled, diluted with ethyl acetate, washed with saturated aqueous sodium bicarbonate, and the combined organics dried over sodium sulfate. After filtration and concentration, the residue was purified by flash chromatography (20% hexanes/methylene chloride to 25% ethyl acetate/methylene chloride to provide 0.065 g of N-(4-methoxybenzyl)-5-bromo-3-(1-(2,3-dichlorophenyl)-1H-imidazol-2-yl)pyridin-2-amine [LC-MS m/e=505.0 (M+H)]. Using the same procedure, N-(4-methoxybenzyl)-5-bromo-3-(1-(2,3-difluorophenyl)-1H-imidazol-2-yl)pyridin-2-amine and N-(4-methoxybenzyl)-5-bromo-3-(1-(3-chloro-2-fluorophenyl)-1H-imidazol-2-yl)pyridin-2-amine can be produced from 5-bromo-2-chloro-3-(1-(2,3-difluorophenyl)-1H-imidazol-2-yl)pyridine and 5-bromo-2-chloro-3-(1-(3-chloro-2-fluorophenyl)-1H-imidazol-2-yl)pyridine, respectively

reactant | (4-methoxyphenyl)methanamine | 0.2 mL | COC1=CC=C(C=C1)CN | C8H11NO
reactant | 5-bromo-2-chloro-3-(1-(2,3-dichlorophenyl)-1H-imidazol-2-yl)pyridine | 0.222 mmol, 0.089 g | BrC=1C=C(C(=NC1)Cl)C=1N(C=CN1)C1=C(C(=CC=C1)Cl)Cl | C14H7BrCl3N3
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-methoxybenzyl)-5-bromo-3-(1-(2,3-dichlorophenyl)-1H-imidazol-2-yl)pyridin-2-amine | 0.065 g | COC1=CC=C(CNC2=NC=C(C=C2C=2N(C=CN2)C2=C(C(=CC=C2)Cl)Cl)Br)C=C1 | C22H17BrCl2N4O
